US07498337B2
N-methyl-1-[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine fumarate
To a solution of 5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (521 mg) in tetrahydrofuran (5 mL) and methanol (5 mL) was added a 40% methylamine methanol solution (373 mg). After stirring at room temperature for 1 hr, sodium borohydride (202 mg) was added. After stirring at the same temperature for 30 min, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→1:9) to give a free salt of the title compound as a yellow oil (yield 422 mg). A solution of the obtained free salt in ethanol (5 mL) was added to a solution (15 mL) of fumaric acid (144 mg) in ethanol, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as colorless crystals (yield 414 mg, 56%).

reactant | 5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 521 mg | CC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C17H14N2O3S
reactant | methylamine methanol | 373 mg | CO.CN
reactant | sodium borohydride | 202 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | N-methyl-1-[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine fumarate | yield 422 mg | C(\C=C\C(=O)O)(=O)O.CNCC1=CN(C(=C1)C1=C(C=CC=C1)C)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C18H19N3O2S.C4H4O4/c1-14-6-3-4-8-17(14)18-10-15(11-19-2)13-21(18)24(22,23)16-7-5-9-20-12-16;5-3(6)1-2-4(7)8/h3-10,12-13,19H,11H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
